data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_567327_0,[C:1]([C:5](=[O:7])[H:14])([N:6]=[C:2]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:6]1[C:5](=[O:7])[H:14],67.65453999997305
MR_179974_1,[C:1](/[C:4](=[C:3](\[N:2]([N:5]([H:11])[H:12])[H:10])[O:6][H:8])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:2]([N:5]([H:11])[H:12])[H:10])=[C:3]([O:6][H:8])[O:7][H:9])([H:13])([H:14])[H:15],46.00265249999353
MR_603073_0,[C:1]1([C:2]([C:6]([H:19])([H:21])[H:22])([C:7]([H:20])([H:23])[H:24])/[C:8](=[N:9]\[H:10])[H:15])([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14]>>[C:1](=[C:2]([C:6]([H:19])([H:21])[H:22])[C:7]([H:20])([H:23])[H:24])([C:3]([C:4](/[C:8](=[N:9]\[H:10])[H:15])([H:13])[H:14])([H:11])[H:12])[C:5]([H:16])([H:17])[H:18],70.66340249997396
MR_297376_0,[C:1](=[C:4]([C:6]1([H:11])[N:3]([H:10])[C:5]1([C:2]([H:15])([H:16])[H:17])[C:7]([H:14])([H:18])[H:19])[O:8][H:9])([H:12])[H:13]>>[C:1](/[C:4](=[C:6](/[N:3]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[H:10])[H:11])[O:8][H:9])([H:12])([H:13])[H:14],55.690624999967184
MR_194930_2,[N:1](/[C:2](=[C:3]([N:6]([H:14])[H:15])/[C:7](=[N:8]/[H:16])[H:17])[N:5]([H:12])[H:13])([N:4]([H:10])[H:11])[H:9]>>[N:1](/[C:3](=[C:2]([N:5]([H:12])[H:13])/[C:7](=[N:8]/[H:16])[H:17])[N:6]([H:14])[H:15])([N:4]([H:10])[H:11])[H:9],66.91534500002021
MR_146421_2,[C:1]([C:4]([N:2]([C:3]([N:6]([H:11])[H:12])=[O:7])[N:5]([H:9])[H:10])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([O:7]/[C:3](=[N:2]/[N:5]([H:9])[H:10])[N:6]([H:11])[H:12])=[O:8])([H:13])([H:14])[H:15],42.74341750001838
MR_642499_0,[C:1]([C:5]1([O:10][H:13])/[C:3](=[N:9]\[H:15])[C:4]1(/[C:6]([C:2]([H:19])([H:20])[H:21])=[N:8]/[H:14])[N:7]([H:11])[H:12])([H:16])([H:17])[H:18]>>[C:1]([C:5]([C:3](/[C:4](=[C:6](/[C:2]([H:19])([H:20])[H:21])[N:8]([H:13])[H:14])[N:7]([H:11])[H:12])=[N:9]\[H:15])=[O:10])([H:16])([H:17])[H:18],2.12408750002325
MR_143562_0,[C:1]([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])/[N:7]=[N:8]/[N:6]([H:10])[H:11])[H:9]>>[C:1]([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])([N:8]([N:6]([H:10])[H:11])/[N:7]=[N:5]\[C:2]([H:12])([H:13])[H:14])[H:9],62.761922499984166
MR_408355_1,[C@:1]1([C:4]([H:13])([H:14])[H:15])([O:8][H:10])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[C@:3]1([C:7](=[O:9])[H:12])[H:11]>>[C:1](=[C:3](/[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[C:7](=[O:9])[H:12])[H:11])(\[C:4]([H:13])([H:14])[H:15])[O:8][H:10],65.42189500000987
MR_107488_1,[C:1]([N:3](/[C:4]([N:6]([H:9])[H:10])=[N:7]/[H:11])[C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:5](/[C:2]([H:15])([H:16])[H:17])[O:8]/[C:4]([N:6]([H:9])[H:10])=[N:7]/[H:11])([H:12])([H:13])[H:14],55.81863499996501
MR_599455_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:5][C:2]([H:10])([H:11])[H:12])[N:6]=[N:8][C:4]([H:9])=[N:7]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])=[N:7][C:4]([O:5][C:2]([H:10])([H:11])[H:12])([H:9])[N:8]=[N:6]1,63.95166250001225
MR_117390_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:12])[H:13])[H:11])([C:4]([O:7][H:10])=[O:8])[O:6][H:9]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([O:6][H:9])[C:4]([N:3]([N:5]([H:12])[H:13])[H:11])([O:7][H:10])[O:8]1,47.48229749996739
MR_516031_1,[C:1]([C:3]1([O:4][O:5][H:8])[C:2](=[O:6])[O:7]1)([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([O:4][O:5][H:8])=[O:7])=[O:6])([H:9])([H:10])[H:11],42.52190999997126
MR_3456_1,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:7]([C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[H:14])([C:5]([H:18])([H:19])[H:20])[O:9][H:10])[H:12])(=[O:8])[H:11]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:7]([C:5]([H:18])([H:19])[H:20])=[O:9])[H:12])([C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[H:14])([O:8][H:10])[H:11],59.70536999999666
MR_259813_1,[N:1]([C:2]([N:3]([H:9])[H:10])=[O:7])([C:4](=[C:5]([H:12])[H:13])[H:11])[O:6][H:8]>>[N:1](=[C:2](/[N:3]([H:9])[H:10])[O:7][C:4](=[C:5]([H:12])[H:13])[H:11])\[O:6][H:8],63.28274749998897
MR_530386_1,[C:1]([C:2](/[C:3]([C:4](=[O:7])[H:9])=[N:5]\[H:8])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:4](/[C:3](=[N:5]\[H:8])[H:9])=[O:7])=[O:6])([H:10])([H:11])[H:12],62.644579999995074
MR_65491_0,[C:1]([N:2]([H:7])[H:8])([O:4]/[C:3](=[N:5]\[H:9])[H:10])=[O:6]>>[C:1]([N:2]([H:7])[H:8])(=[O:4])[O:6]/[C:3](=[N:5]\[H:9])[H:10],31.678710000025063
MR_397678_1,[C@@:1]1([C:3](/[C:6](=[N:8]\[N:5]([H:9])[H:10])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[O:7]1>>[C:1]1([C:3](/[C:6](=[N:8]\[N:5]([H:9])[H:10])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[O:7]1,65.02468750004965
MR_85226_0,[C:1]([N:2]([O:7][H:8])[H:9])(/[C:3]([N:4]([H:10])[H:11])=[C:6](\[N:5]([H:12])[H:13])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:2]([H:9])[C@:3]1([N:4]([H:10])[H:11])[C@@:6]([N:5]([H:12])[H:13])([O:7][H:8])[H:16],59.32384999999684
